US04894386
E,E-4-[3,6-Di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)-benzamide
A mixture of E,E-4-[3,6-Di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxybenzoic acid (0.45 g), 4-dimethylaminopyridine (0.13 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.21 g) and 2-methylbenzenesulfonamide (0.19 g), in N,N-dimethylformamide (10 ml) and methylene chloride (25 ml), was stirred for 48 hr. The methylene chloride was evaporated and the remaining solution added slowly to rapidly-stirred 2M hydrochloric acid (100 ml), the precipitate isolated by filtration and washed with water. The solid obtained was heated to reflux in methanol (50 ml), cooled, and the product isolated by filtration to give the title compound (0.49 g, 84%) as a yellow powder, mp 297°-299°.

reactant | E,E-4-[3,6-Di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxybenzoic acid | 0.45 g | O=C(/C=C/C1=CN(C2=CC(=CC=C12)\C=C\C(=O)N1CCCC1)CC1=C(C=C(C(=O)O)C=C1)OC)N1CCCC1 | C31H33N3O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.21 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-methylbenzenesulfonamide | 0.19 g | CC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S
catalyst | 4-dimethylaminopyridine | 0.13 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | E,E-4-[3,6-Di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)-benzamide | 0.49 g, 84% | O=C(/C=C/C1=CN(C2=CC(=CC=C12)\C=C\C(=O)N1CCCC1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC)N1CCCC1 | C38H40N4O6S
